US09303023B2
A microwave vial was charged with 4-nitro-1H-pyrazole (1.0 g, 8.84 mmol), 3-(2-bromoethyl)-5-methoxy-1H-indole (2.25 g, 8.84 mmol), Cs2CO3 (5.76 g, 17.69 mmol), MeCN (75.0 mL) and DMF (5.0 mL). The tube was sealed and the reaction mixture was irradiated in the microwave to 100° C. for 10 min with cooling. The reaction mixture was diluted with water and DCM, then the org. layer was separated and the aq. layer was extracted with DCM. The combined org. layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification was performed by FC (EtOAc/hex 1:4) to yield 5-methoxy-3-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)-1H-indole as a yellow solid, which was used in the next step without further purification. LC-MS conditions B: tR=0.70 min, [M+H]+=287.13.

reactant | 4-nitro-1H-pyrazole | 8.84 mmol, 1.0 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 3-(2-bromoethyl)-5-methoxy-1H-indole | 8.84 mmol, 2.25 g | BrCCC1=CNC2=CC=C(C=C12)OC | C11H12BrNO
reactant | Cs2CO3 | 17.69 mmol, 5.76 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeCN | 75.0 mL | CC#N | C2H3N
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 5-methoxy-3-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CCN1N=CC(=C1)[N+](=O)[O-] | C14H14N4O3
